US04978753
In the manner given in Example 1, 2-amino-6,8-diethyl-5-(m-ethylphenyl)-3H-1,4-benzodiazepine, ethyl propiolate and ethanol were refluxed. The mixture was chromatographed to give 8,10-diethyl-7-(m-ethylphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-6,8-diethyl-5-(m-ethylphenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC(=CC=C1)CC)C(=CC(=C2)CC)CC | C21H25N3
reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
solvent | ethanol | C(C)O | C2H6O
product | 8,10-diethyl-7-(m-ethylphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(C)C1=CC(=CC2=C1C(=NCC=1N2C=CC(N1)=O)C1=CC(=CC=C1)CC)CC | C24H25N3O
